US09145415B2
To 10% palladium-carbon (100 mg), a solution of (S)-tert-butyl (1-((3-(benzyloxy)phenyl)amino)-1-oxopropan-2-yl)(methyl)carbamate (E15, 166 mg) in methanol (4 mL) and tetrahydrofuran (2 mL) was added at room temperature, and the mixture was stirred at the same temperature for 5 hours and 30 minutes under a hydrogen atmosphere. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure to obtain (S)-tert-butyl (1-((3-hydroxyphenyl)amino)-1-oxopropan-2-yl)(methyl)carbamate (E16, 136 mg).

reactant | (S)-tert-butyl (1-((3-(benzyloxy)phenyl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 166 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C22H28N2O4
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | (S)-tert-butyl (1-((3-hydroxyphenyl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 136 mg | OC=1C=C(C=CC1)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C15H22N2O4
